### PR TITLE
[Merged by Bors] - feat: s-finite measures

### PR DESCRIPTION
**Pull request by sgouezel**
We define s-finite measures, i.e., measures which can be written as a countable sum of finite measures. We show that sigma-finite measures are s-finite, and extend a few results in the library from the sigma-finite case to the s-finite case.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 1]
```diff
@@ -477,6 +478,10 @@ end Measure
 
 open Measure
 
+/-- A measure is called s-finite if it is a countable sum of finite measures. -/
+class SFinite {m0 : MeasurableSpace α} (μ : Measure α) : Prop where
+  out' : ∃ m : ℕ → Measure α, (∀ n, IsFiniteMeasure (m n)) ∧ μ = Measure.sum m
+
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:484]: I did also start writing code for that class and I added a minimal API:
```suggestion
section SFinite

/-- A measure is called s-finite if it is a countable sum of finite measures. -/
class SFinite (μ : Measure α) : Prop where
  out' : ∃ m : ℕ → Measure α, (∀ n, IsFiniteMeasure (m n)) ∧ μ = Measure.sum m

/-- A sequence of finite measures such that `μ = sum (sFiniteSeq μ)` (see `sum_sFiniteSeq`). -/
noncomputable
def sFiniteSeq (μ : Measure α) [h : SFinite μ] : ℕ → Measure α := h.1.choose

instance isFiniteMeasure_sFiniteSeq [h : SFinite μ] (n : ℕ) : IsFiniteMeasure (sFiniteSeq μ n) :=
  h.1.choose_spec.1 n

lemma sum_sFiniteSeq [h : SFinite μ] : sum (sFiniteSeq μ) = μ := h.1.choose_spec.2.symm

end SFinite
```

File: Mathlib/MeasureTheory/Measure/Typeclasses.lean [hunk 2]
```diff
@@ -576,6 +581,23 @@ theorem eventually_mem_spanningSets (μ : Measure α) [SigmaFinite μ] (x : α)
...
+theorem eq_sum_restrict (μ : Measure α) [SigmaFinite μ] :
+    μ = sum (fun n ↦ μ.restrict (disjointed (spanningSets μ) n)) := by
+  ext s hs
+  simp_rw [sum_apply _ hs, Measure.restrict_apply hs]
+  rw [← measure_iUnion, ← inter_iUnion, iUnion_disjointed, iUnion_spanningSets, inter_univ]
+  · intro i j hij
+    apply (Disjoint.inter_left' _ _).inter_right'
+    exact disjoint_disjointed _ hij
+  · intro i
+    exact hs.inter (MeasurableSet.disjointed (measurable_spanningSets μ) _)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Typeclasses.lean:593]: I would reverse it and use the following name and shorter proof.
```suggestion
theorem sum_restrict_disjointed_spanningSets (μ : Measure α) [SigmaFinite μ] :
    sum (fun n ↦ μ.restrict (disjointed (spanningSets μ) n)) = μ := by
  rw [← restrict_iUnion (disjoint_disjointed _)
      (MeasurableSet.disjointed (measurable_spanningSets _)),
    iUnion_disjointed, iUnion_spanningSets, restrict_univ]
```

**Comment by RemyDegenne** [comment]
LGTM, thanks!
bors r+
